Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
amlodipine / Amoxicillin / Benadryl / Erythromycin Base / 
potassium / lisinopril / metoprolol / Plavix / felodipine
 
Attending: ___
 
Chief Complaint:
dyspnea on exertion

 
Major Surgical or Invasive Procedure:
___
1. Coronary artery bypass graft x4, left internal mammary
    artery to left anterior descending artery, saphenous
    vein graft to right coronary artery, and saphenous vein
    sequential graft to ramus and obtuse marginal arteries.
2. Endoscopic harvesting of long saphenous vein.

 
History of Present Illness:
___ year old male with a history of
COPD and multile episodes of pneumonia since the begining of the
year has complaints of worsening dyspnea on exertion over the
past few months. He had a recent stress test that revealed
inferoapical septal ischemia and a mildly decreased LVEF of 46%.
With these findings he was referred for a cardiac
catheterization. Upon catheterization he was found to have three
vessel disease. He is now referred to cardiac surgery for
surgical revascularization. 

 
Past Medical History:
Hypertension
Hyperlipidemia
COPD
Asbestosis exposure
Carotid artery disease s/p left CEA in ___
PAD s/p aorto-bifemoral bypass grafting ___
Anemia
Insomnia
Recurrent transitional bladder cancer s/p TURP x 3
Restless leg syndrome
Prior heavy ETOH use
Old TB- s/p treatment with INH in ___
Depression
Anxiety
Past Surgical History:
Emergent abdominal surgery after a traumatic accident in ___ 
Cataract surgery, bilateral
Left CEA in ___
Aorto-Bifemoral bypass grafting ___
TURP x3

 
Social History:
___
Family History:
Premature coronary artery disease- Father had a
"hole in his heart" died at age ___ from lung disease and
alcoholism. Mother died at age ___ from TB

 
Physical Exam:
Pulse:94 Resp:12  O2 sat:98/RA
B/P  Right:179/91    Left:175/101
Height:5'7"   Weight:82.5 kg

General: no distress
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[x]
Extremities: Warm [x], well-perfused [x]  Edema [] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:2+   Left:2+
___           Right:2+   Left:2+
Radial       Right:2+   Left:2+

Carotid Bruit        Right: none   Left:none

 
Pertinent Results:
Conclusions  
Prebypass

No atrial septal defect is seen by 2D or color Doppler. 

Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is top normal/borderline dilated. There 
is severe regional left ventricular systolic dysfunction with 
all levels of septal wall. Overall left ventricular systolic 
function is severely depressed (LVEF= 15 %). [Intrinsic left 
ventricular systolic function is likely more depressed given the 
severity of valvular regurgitation.] 

Right ventricular chamber size and free wall motion are normal. 

The diameters of aorta at the sinus, ascending and arch levels 
are normal. The descending thoracic aorta is mildly dilated. 
There are complex (>4mm) atheroma in the descending thoracic 
aorta. 

The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
Mild to moderate (___) mitral regurgitation is seen. There is 
no pericardial effusion. 

Dr. ___ was notified in person of the results in the OR 
during the procedure.

Post CPB

The patient separated from bypass with phenylephrine and 
epinephrine by IV infusions. Cardiac Output is 5.9 LPM by TEE. 

The LVEF has impoved to ___ though this is on epi drip. The 
septum has improved from akinetic to hypokinetic. The mitral 
regurgitation is moderate. There is no sign of aortic injury or 
dissection.   
   I certify that I was present for this procedure in compliance 
with ___ regulations.

Electronically signed by ___, MD, Interpreting 
physician ___ ___ 14:08  
   
© ___ ___. All rights reserved.
.

___ 04:25AM BLOOD WBC-5.7 RBC-3.06* Hgb-8.3* Hct-25.9* 
MCV-85 MCH-27.1 MCHC-32.0 RDW-15.4 RDWSD-47.2* Plt ___
___ 02:57AM BLOOD WBC-7.3 RBC-3.23* Hgb-8.5* Hct-27.2* 
MCV-84 MCH-26.3 MCHC-31.3* RDW-15.2 RDWSD-46.4* Plt ___
___ 02:57AM BLOOD ___ PTT-29.2 ___
___ 04:25AM BLOOD Glucose-103* UreaN-16 Creat-0.6 Na-138 
K-4.4 Cl-101 HCO3-28 AnGap-13
___ 11:10AM BLOOD Na-136 K-3.7 Cl-104
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent CABG x 5 with Dr. ___.  Overall the 
patient tolerated the procedure well and post-operatively was 
transferred to the ___ in stable condition for recovery and 
invasive monitoring.  
The patient does have a history of alcohol dependence. He was 
agitated with initial wean and required precedex.  CIWA scale 
was implemented.  He was extubated on POD 1 and maintained on 
the CIWA scale.  He was weaned from epi and neo by POD 1.  The 
patient was neurologically intact and hemodynamically stable.  
Beta blocker was initiated and the patient was gently diuresed 
toward the preoperative weight.  The patient was transferred to 
the telemetry floor for further recovery.  Chest tubes and 
pacing wires were discontinued without complication.  The 
patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  He failed a void trial.  
Foley was replaced and Flomax started.  Void trial should be 
repeated in 3 days at rehab.   By the time of discharge on POD 4 
the patient was ambulating freely, the wound was healing and 
pain was controlled with oral analgesics.  The patient was 
discharged to ___ on the ___ in good condition with 
appropriate follow up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
2. ALPRAZolam 0.125 mg PO BID 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
4. Mirtazapine 15 mg PO QHS 
5. Pramipexole 0.5 mg PO BID 
6. Simvastatin 10 mg PO QPM 
7. Terazosin 1 mg PO QHS 
8. Tiotropium Bromide 1 CAP IH BID 
9. Aspirin 81 mg PO DAILY 
10. Cyanocobalamin ___ mcg PO DAILY 
11. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
2. Aspirin EC 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Pramipexole 0.5 mg PO BID 
5. Simvastatin 10 mg PO QPM 
6. Terazosin 1 mg PO QHS 
7. Tiotropium Bromide 1 CAP IH BID 
8. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
9. Carvedilol 25 mg PO BID 
10. FoLIC Acid 1 mg PO DAILY 
11. Furosemide 40 mg PO DAILY Duration: 10 Days 
12. Losartan Potassium 25 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Ranitidine 150 mg PO BID 
15. Tamsulosin 0.4 mg PO QHS 
16. Thiamine 100 mg PO DAILY 
17. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0
18. ALPRAZolam 0.125 mg PO BID:PRN anxiety 
RX *alprazolam 0.25 mg 0.5 (One half) tablet(s) by mouth twice a 
day Disp #*40 Tablet Refills:*0
19. Cyanocobalamin ___ mcg PO DAILY 
20. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hypertension
Hyperlipidemia
COPD
Asbestosis exposure
Carotid artery disease s/p left CEA in ___
PAD s/p aorto-bifemoral bypass grafting ___
Anemia
Insomnia
Recurrent transitional bladder cancer s/p TURP x 3
Restless leg syndrome
Prior heavy ETOH use
Old TB- s/p treatment with INH in ___
Depression
Anxiety
Past Surgical History:
Emergent abdominal surgery after a traumatic accident in ___ 
Cataract surgery, bilateral
Left CEA in ___
Aorto-Bifemoral bypass grafting ___
TURP x3

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, deconditioned
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema- trace 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___